US07705023B2
5-(2,4-Dichlorophenyl)-1-(4-isopropoxyphenyl)-1H-indole-2-carboxylic acid
The title compound was prepared in accordance with Example 54 from 5-bromo-3-chloro-1H-indole-2-carboxylic acid ethyl ester, 2,4-dichlorophenyl boronic acid and 4-isopropoxyphenyl boronic acid, followed by ester hydrolysis.

reactant | 5-bromo-3-chloro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1Cl)Br | C11H9BrClNO2
reactant | 2,4-dichlorophenyl boronic acid | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | 4-isopropoxyphenyl boronic acid | C(C)(C)OC1=CC=C(C=C1)B(O)O | C9H13BO3
product | 5-(2,4-Dichlorophenyl)-1-(4-isopropoxyphenyl)-1H-indole-2-carboxylic acid | ClC1=C(C=CC(=C1)Cl)C=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)OC(C)C)C(=O)O | C24H19Cl2NO3
